Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
epigastric pain, emesis
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G3P0 at ___ with history of severe hyperemesis/gastritis 
for which she has had numerous antepartum admissions presents 
with inability to tolerate PO for 1 day and epigastric pain. 
Denies any fever/chills. Continues to feel nauseous and 
continues to have multiple small amounts of mucousy emesis with 
loud retching. Reports that she last kept something down 
yesterday. Last BM was yesterday. Voiding without problems. 
Unable to elicit a full history due to patient 
discomfort/inability to answer questions.
 
Past Medical History:
PNC
- ___ ___ by LMP (___) c/w 11wk U/S
- Labs: O-/Ab-,GC/CT-,RPRnr,RI,HbsAg-,HIV-,Hbg 100%A
- LR quad
- FFS nl
- hx Chlamydia in ___ tri, pt/partner treated, neg test of
re-infection (___)
- GERD/gastritis/freq abd pain
     - s/p admission ___, 
          ___, and ___
     - ___ neg  
     - ___ GI consult
     - ___ US: GB sludge, no cholecystitis or gallstones  
     - ___ abd/pelvis: no pathology  
     - ___ -> c/w severe gastritis; nl biopsies
- psych: panic/anxiety/depression. seen by psychiatry during
admissions, recommended klonopin (longer acting than ativan) and
SSRI with Haldol PRN

OBHx: G3P0
-SAB x 2 requiring D&C
GynHx: denies history of abnormal paps or fibroids, + Chlamydia
(first trimester)
PMH: GERD and gastritis
PSH: D&C x 2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: T 98.4, HR 83, BP 132/74
GENERAL: restless in bed, unable to sit or lie still, only 
intermittently cooperative with answering questions and physical 
exam due to intermittent retching, urinated in bed on initial 
presentation and currently nude in bed
Resp: CTA bilaterally, no crackles
CV: RRR
ABDOMEN: normal bowel sounds, soft, gravid, no rebound or 
guarding

Unable to obtain FHT/Toco due to patient inability to sit still

TAUS: cephalic, ant placenta, FHR 143, active fetal movement of 
extremities and good tone, +breathing, DVP 2.4cm (unable to 
measure full AFI given pt inability to cooperate with exam)

___ ULTRASOUND
1. Nondistended gallbladder with biliary sludge suggests an 
element of biliary stasis. No biliary ductal dilatation is seen 
and there is no evidence of cholecystitis.
2. Thinning of the myometrium in the fundus is incompletely 
assessed due to overlying bowel gas also noted subjectively on 
MR of ___. A repeat MRI would be helpful if clinically 
indicated for further evaluation.
 
Pertinent Results:
___ WBC-10.8 RBC-3.67 Hgb-10.9 Hct-32.6 MCV-89 Plt-373
___ WBC-14.1 RBC-3.39 Hgb-10.3 Hct-30.5 MCV-90 Plt-335
___ WBC-11.7 RBC-3.24 Hgb-9.7 Hct-29.0 MCV-90 Plt-325
___ WBC-10.9 RBC-3.29 Hgb-10.0 Hct-29.7 MCV-90 Plt-346
___ WBC-14.3 RBC-3.83 Hgb-11.3 Hct-34.0 MCV-89 Plt-388

___ ___ PTT-23.9 ___ ___ Glu-89 UreaN-5 Cre-0.6 Na-139 K-3.9 Cl-106 HCO3-21
___ Glu-99 UreaN-4 Cre-0.7 Na-138 K-3.7 Cl-106 HCO3-20
___ Glu-93 UreaN-3 Cre-0.5 Na-139 K-3.6 Cl-107 HCO3-22
___ Glu-85 UreaN-2 Cre-0.6 Na-137 K-3.9 Cl-107 HCO3-22

___ Creat-0.7
___ ALT-44 AST-51 UricAcd-3.4
___ ALT-53 AST-44 Amylase-40 Lipase-21
___ ALT-80 AST-50 Amylase-39 TotBili-0.4 Lipase-29
___ ALT-81 AST-45 ___ TBili-0.4 Lip-36 UrAcd-3.7
___ ALT-65 AST-25 TotBili-0.3 Lipase-34
___ ALT-48 AST-14 TotBili-0.3 Lipase-21 UricAcd-4.0
___ ALT-24 AST-13 TotBili-0.6 Lipase-27 UricAcd-4.2

___ Calcium-9.0 Phos-3.2 Mg-1.5
___ Calcium-9.0 Phos-2.4 Mg-1.7 
___ Calcium-8.6 Phos-3.0 Mg-1.6
___ Calcium-9.3 Phos-4.2 Mg-1.6

___ BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE HAV Ab-NEGATIVE
___ BLOOD HCV Ab-NEGATIVE

___ URINE Blood-NEG Nitrite-NEG Protein-TR Glucose-NEG 
Ketone-40 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM 

URINE CULTURE (Final ___: 
 MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH
 SKIN AND/OR GENITAL CONTAMINATION

R/O GROUP B BETA STREP (Final ___: 
 NEGATIVE FOR GROUP B BETA STREP
 
Brief Hospital Course:
___ y/o G3P0 admitted at ___ with epigastric pain, nausea and 
vomiting. This appeared to be an exacerbation of her 
hyperemesis/gastritis, likely due to not taking her protonix 
(ran out of medication). She was admitted for IV hydration, 
antiemetics, IV protonix and Ativan. Electrolytes were also 
repleted. A quick bedside ultrasound was performed and was 
reassuring. Her symptoms were eventually well controlled on po 
Ativan, protonix, and pepcid.
.
A repeat 24 hour urine collection was obtained given her 
previous collection revealed 289mg of protein. This time, there 
was 429mg of protein, confirming the diagnosis of mild 
preeclampsia at 27w5d. Her blood pressures were 130-140s/70-80s. 
Labs were significant for intermittent mildly elevated LFTs, 
otherwise normal. A RUQ ultrasound and hepatitis panel were 
unremarkable. Her LFTs normalized completely. Another 24 hour 
urine collection was done at approximately 28 weeks given her 
blood pressures and labs remained stable, and this was revealed 
no protein. Due to the discrepancy from her previous 24 hour 
collection, the lab processed her urine again and verified the 
negative protein result. The decision was made to discharge her 
home and manage her with close surveillance as an outpatient.
.
Fetal testing was reassuring throughout this admission. She 
received a course of betamethasone for fetal lung maturity 
(complete on ___ and the NICU was consulted.
.
Of note, psychiatry was consulted again during this admission 
due to her unusual behavior and the team felt her presentation 
was most consistent with adjustment disorder with anxious mood 
and impulsive behavior. She was continued on Ativan which 
improved her mood and this was continued upon discharge.
.
In regards to routine prenatal testing, a GTT was deferred given 
her gastritis and nausea/vomiting. Multiple fasting glucose 
levels were normal during her admission and her fetus was 
measuring size equal to dates. This decision was made after 
discussion with ___. She received Rhogam on ___ due to her 
Rh negative status. She had no vaginal bleeding throughout this 
admission. In addition, she had a negative GBS on ___.
.
Ms ___ was discharged home in stable condition on ___. 
She was counseled extensively regarding the importance of close 
followup, including twice weekly fetal testing.
 
Medications on Admission:
PNV, pepcid, compazine, ativan, protonix
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pregnancy
Gastritis
Pre-eclampsia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the antepartum service with epigastric pain 
and nausea/vomitting. You were also diagnosed with 
pre-eclampsia. You received several medications and your pain 
and vomitting improved. You are being discharged home with 
multiple medications. Please take as prescribed. You should 
continue to take the protonix and pepcid on a daily basis, even 
if your pain improves.  

You should go home on modified bed rest. This means to try and 
stay off of your feet. You should not be leaving your house for 
work.  
 
Followup Instructions:
___